US04278659
A glyceraldehyde-resorcinol precondensate was prepared by refluxing an aqueous solution of 5% by weight glyceraldehyde, 5% resorcinol, 1% boric acid, and 1% citric acid at the boil for one hour. The pH of the mixture was then adjusted to 3.0 by the addition of sodium hydroxide after which it was thickened by the addition of 1% of guar gum thickener (Jaquar 124-T from Stein Hall, Inc.) to provide a viscosity of 1200 c.p.s.

reactant | glyceraldehyde | O=CC(O)CO | C3H6O3
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | boric acid | B(O)(O)O | BH3O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydroxide | [OH-].[Na+]
product | glyceraldehyde resorcinol | O=CC(O)CO.C1(O)=CC(O)=CC=C1 | InChI=1S/C6H6O2.C3H6O3/c7-5-2-1-3-6(8)4-5;4-1-3(6)2-5/h1-4,7-8H;1,3,5-6H,2H2
